US09125410B2
3-(4-Chloro-2-methyl-phenyl)-5-furan-2-yl-[1,2,4-]oxadiazole
In a 500 mL round-bottom flask, 4-chloro-2-methylbenzonitrile (10 g, 66 mmol) was dissolved in 200 mL of methanol. To the mixture was added hydroxylammonium chloride (4.56 g, 66 mmol) followed by DIEA (diisopropylethylamine) (23 mL, 132 mmol). The mixture was heated at reflux for overnight. The solvents were removed. The residue was dissolved in 200 mL of CHCl3. To the mixture was added 2-furoyl chloride (10.5 ml, 66 mmol) followed by DIEA (23 mL, 132 mmol). After reaction completion, the mixture was extracted with chloroform and water. The organic layer was separated, washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was dissolved in 200 mL of dioxanes. To the mixture was added 1 eq of DIC (N,N′-diisopropylcarbodiimide) followed by 1 eq of DIEA. The mixture was then heated at reflux overnight. After reaction completion, the mixture was cooled down. The solvents were removed in vacuo. The residue was then extracted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography on silica gel in a 0-20% ethyl acetate/hexanes gradient to afford 4.96 g of the desired compound 3-(4-Chloro-2-methyl-phenyl)-5-furan-2-yl-[1,2,4]oxadiazole as a white powder in an overall yield of 28.8%.

reactant | 4-chloro-2-methylbenzonitrile | 66 mmol, 10 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | hydroxylammonium chloride | 66 mmol, 4.56 g | [Cl-].O[NH3+]
reactant | DIEA | 132 mmol, 23 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-furoyl chloride | 66 mmol, 10.5 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | DIEA | 132 mmol, 23 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DIC | 1 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | DIEA | 1 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 200 mL | CO | CH4O
product | 3-(4-Chloro-2-methyl-phenyl)-5-furan-2-yl-[1,2,4-]oxadiazole | 4.96 g, yield of 28.8% | ClC1=CC(=C(C=C1)C1=NOC(=N1)C=1OC=CC1)C | C13H9ClN2O2
